US06555634B1
Step 2 Preparation of (5,6-Dimethoxy-3-phenyl-1H-inden-1-yl)lithium.
5,6-dimethoxy-3-phenyl-1H-indene (1.26 g, 4.99 mmol) was dissolved in a mixture of 15 mL of toluene and 25 mL of hexane and 3.06 mL of 1.6 M n-BuLi were added dropwise via syringe over a 3 min period. The solution developed a yellow-light green precipitate during addition of n-BuLi. The reaction mixture was stirred for 3 h and then filtered, washed with 60 mL of hexane and dried in vacuum to afford the desired product as a yellow solid (1.24 g) in 98 percent yield.

reactant | 5,6-dimethoxy-3-phenyl-1H-indene | 4.99 mmol, 1.26 g | COC=1C=C2C(=CCC2=CC1OC)C1=CC=CC=C1 | C17H16O2
reactant | n-BuLi | 1.6 M, 3.06 mL | [Li]CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 25 mL | CCCCCC | C6H14
product | (5,6-Dimethoxy-3-phenyl-1H-inden-1-yl)lithium | 1.24 g, 98 percent yield | COC=1C=C2C(=CC(C2=CC1OC)[Li])C1=CC=CC=C1 | InChI=1S/C17H15O2.Li/c1-18-16-10-13-8-9-14(12-6-4-3-5-7-12)15(13)11-17(16)19-2;/h3-11H,1-2H3;
